US08735436B2
Preparation of 2-ethyl-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoic acid
A mixture of formic acid (5 ml) and tert-butyl 2-ethyl-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate (250 mg, 0.55 mmol) was stirred vigorously under nitrogen at room temperature for 4.5 hours. The formic acid was removed in vacuo. The residue was purified by flash chromatography on silica gel using increasingly polar mixtures of heptane and ethyl acetate (100:0→80:20) as eluent. Concentration of the appropriate fractions afforded 163 mg (74% yield) of the title compound as an oil. 1H NMR (300 MHz, CDCl3): δ 0.86 (t, 6H), 0.99 (t, 3H), 1.36-1.57 (m, 2H), 1.68 (dd, 2H), 1.73-1.98 (m, 4H), 2.11 (tt, 4H), 2.70-3.01 (m, 8H), 3.39 (t, 2H), 5.20-5.56 (m, 10H). MS (electrospray): 481.4 [M+Na]+.

reactant | tert-butyl 2-ethyl-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate | 0.55 mmol, 250 mg | C(C)C(C(=O)OC(C)(C)C)(CC)OCCCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC | C30H50O3
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | 2-ethyl-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoic acid | 163 mg, 74% yield | C(C)C(C(=O)O)(CC)OCCCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC | C26H42O3
